US08686048B2
Intermediate 7: 3,5-difluorobiphenyl-4-amine
The title compound (0.401 g) was prepared from 2,6-difluoro-4-bromo aniline (0.5 g, 2.4 mmol) and phenylboronic acid (0.38 g, 3.12 mmol) as a white solid. 1H-NMR (δ ppm, DMSO-d6, 400 MHz): 7.60 (d, J 7.4, 2H), 7.38 (t, J 7.5, 2H), 7.30-7.25 (m, 3H), 5.33 (s, 2H).

reactant | 2,6-difluoro-4-bromo aniline | 2.4 mmol, 0.5 g | FC1=C(N)C(=CC(=C1)Br)F | C6H4BrF2N
reactant | phenylboronic acid | 3.12 mmol, 0.38 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | 3,5-difluorobiphenyl-4-amine | 0.401 g | FC=1C=C(C=C(C1N)F)C1=CC=CC=C1 | C12H9F2N
